data/mechanism_extracts/JACS/10.1021_jacs.0c11214.json
{"doi": "10.1021_jacs.0c11214", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical reductive coupling of unactivated olefins with ketones to form tertiary homoallylic/saturated alcohols via cathodically generated ketyl radicals at a Sn cathode with a sacrificial Zn anode", "mechanism_family": ["radical_cathodic", "sacrificial_anode", "radical_polar_crossover"], "electrochemical_role": "Cathodic one-electron reduction of the ketone at a Sn cathode generates a strongly surface-adsorbed ketyl radical that adds to the olefin; a second cathodic reduction of the resulting C-radical to a carbanion is enabled by Zn2+ (from sacrificial Zn anode) acting as a thermodynamic sink and via ZnBr2 coordination to the ketone", "key_intermediates": [{"name": "Sn-adsorbed ketyl radical from ketone", "smiles": null, "role": "reactive"}, {"name": "β-hydroxy carbon-centered radical (after addition to olefin)", "smiles": null, "role": "transient"}, {"name": "β-hydroxy carbanion (dianion after second reduction)", "smiles": null, "role": "reactive"}, {"name": "ZnBr2-coordinated ketone (lower-potential reducible species)", "smiles": null, "role": "reactive"}], "electron_flow": "At the Sn cathode the ketone undergoes one-electron reduction to a strongly adsorbed ketyl radical (E), which adds to the unactivated olefin (C); a second one-electron reduction of the resulting C-radical (second E), facilitated by Zn2+ from the sacrificial Zn anode, yields a carbanion that is protonated on workup (second C) — an overall ECEC sequence.", "rate_determining_step": "Electrochemical reduction of the ketone (current-limited; kinetics zero-order in all components except current)", "probe_reagents": [{"name": "α-substituted ketone 60 (R = H or TBS)", "smiles": null, "purpose": "intermediate_trap", "observation": "Elimination of the α-substituent observed (product 62, 48%), consistent with a ketyl radical intermediate"}, {"name": "Allyl alcohol 64", "smiles": "OCC=C", "purpose": "intermediate_trap", "observation": "Bis-addition adduct 65 (50%) formed, suggesting carbanion intermediate where ZnBr2 assists departure of OH and regenerates an olefin"}, {"name": "Acetone-d6", "smiles": "[2H]C([2H])([2H])C(=O)C([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "80% D incorporation at the highlighted position of product 67-d (74%), supporting a carbanion intermediate protonated on workup"}, {"name": "d7-DMF (with non-deuterated acetone)", "smiles": null, "purpose": "isotope_label", "observation": "0% D incorporation in product 68 (72%), ruling out DMF as the proton source"}, {"name": "Kinetic order analysis", "smiles": null, "purpose": "other", "observation": "Zero-order in all components except current — reduction is purely electrochemical/current-limited"}, {"name": "Acetophenone (CV/SWV probe)", "smiles": "CC(=O)c1ccccc1", "purpose": "redox_probe", "observation": "Pre-peaks observed on Sn (not on GC) indicate strong adsorption of ketyl radical to Sn; addition of olefin 61 causes anodic shift in cathodic peak (EC behavior); SWV with ZnBr2 reveals three reduction peaks, the third assigned to ZnBr2-coordinated ketone, supporting ECEC"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_other", "cyclic_voltammetry", "kinetic_order", "product_isotope_distribution", "other"], "evidence_strength": "strong", "notes": "The Sn cathode is critical: strong adsorption of the ketyl radical (evidenced by CV pre-peaks absent on GC) modulates its reactivity, enabling coupling with unactivated olefins rather than typical nucleophilic ketyl behavior. The role of the sacrificial Zn anode is dual: avoids competing anodic oxidation and supplies Zn2+/ZnBr2 that coordinates the ketone, lowering the second reduction potential to make the ECEC pathway feasible. Limitation: α-substituted ketones undergo elimination rather than productive coupling."}
